US07994185B2
Intermediate 25: N-[3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl]-2,5-difluorobenzenesulfonamide
To a solution of 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline (30 g, 82.8 mmol) in DCM (250 mL) was added pyridine (19.6 g, 248 mmol). The mixture was cooled to 0° C. 2,5-Difluorobenzene-1-sulfonyl chloride (17.6 g, 82.8 mmol) in DCM (20 mL) was added dropwise to the mixture. The reaction was stirred at rt overnight. Then the reaction was washed with water (300 mL), and extracted with DCM (2×400 mL). The organic layer was washed with brine, dried over anhydrous NaSO4, filtrated and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (petroleum ether:EtOAc:DCM 20:1:5) to afford the title compound (20.4 g, 45.8% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.26 (d, J=5.3 Hz, 1H), 7.60-7.66 (m, 1H), 7.51-7.60 (m, 1H), 7.30-7.36 (m, 1H), 7.17-7.30 (m, 3H), 7.07-7.17 (m, 1H), 6.68 (d, J=5.3 Hz, 1H), 1.45 (s, 9H). MS (ES+): 539 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline | 82.8 mmol, 30 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(N)C=CC1)F | C17H16ClFN4S
reactant | pyridine | 248 mmol, 19.6 g | N1=CC=CC=C1 | C5H5N
reactant | 2,5-Difluorobenzene-1-sulfonyl chloride | 82.8 mmol, 17.6 g | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl]-2,5-difluorobenzenesulfonamide | 20.4 g, 45.8% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
